US05137905
Part B. 1,3-dihydro-1-methyl-3-(1-methyl-2-propynyl)-2H-imidazol-2-one.
Methyl isocyanate (4.6 g, 0.081 mol) was added to a stirred solution of 2,2-diethoxy-N-(2-propynyl)ethylamine (13.7 g, 0.074 mol) in ether (150 mL). After 30 min the ether was evaporated and the residue was dissolved in water (150 mL), oxalic acid (6.7 g) was added, and the solution was heated at 50° C. for 30 min. The solution was then concentrated to 20 mL and neutralized with 4N NaOH solution, and extracted with ethyl acetate (4×150 mL). The ethyl acetate was evaporated and the residue was chromatographed on silica gel to give 9.6 g of product as an oil.

reactant | Methyl isocyanate | 0.081 mol, 4.6 g | CN=C=O | C2H3NO
reactant | 2,2-diethoxy-N-(2-propynyl)ethylamine | 0.074 mol, 13.7 g | C(C)OC(CNCC#C)OCC | C9H17NO2
reactant | ether | 150 mL | CCOCC | C4H10O
product | 1,3-dihydro-1-methyl-3-(1-methyl-2-propynyl)-2H-imidazol-2-one | 9.6 g | CN1C(N(C=C1)C(C#C)C)=O | C8H10N2O
